US07368472B2
{4-[(5-Fluoro-benzofuran-3-ylmethyl)-amino]-2-nitro-phenyl}-carbamic acid ethyl ester
In a 3-necked round bottomed flask fitted with a Dean-Stark apparatus 5-Fluoro-benzofuran-3-carbaldehyde (3.59 g, 21.9 mmol) and (4-amino-2-nitro-phenyl)-carbamic acid ethyl ester (4.48 g, 19.9 mmol) were mixed in o-xylene (80 mL) and a catalytic amount of acidic ion exchange resin (Amberlite IRC-84, 100 mg) was added. The mixture was heated to reflux for 5 hours, filtered warm and concentrated in vacuo. This crude product was dissolved in a dioxane:methanol (4:1) mixture (90 mL) and sodiumborohydride (1.50 g, 39.8 mmol) was added portionwise over a period of 30 minutes. The reaction mixture was stirred at ambient temperature over night, then poured into water (200 mL) and extracted with ethyl acetate (3×75 mL). The combined organic fractions were washed with brine, dried (MgSO4) and evaporated to give a crude solid which was purified by chromatography on silica gel (eluent:ethyl acetate:heptane 1:2). This furnished 4.50 g (61%) of the title compound as a red crystalline material. 1H NMR (CDCl3): 1.33 (t, 3H); 4.07 (t, 1H); 4.23 (q, 2H); 4.42 (d, 2H); 6.99 (dd, 1H); 7.05 (dt, 1H); 7.25 (dd, 1H); 7.42 (t, 1H); 7.44 (d, 1H); 7.65 (s, 1H); 8.31 (d, 1H); 9.39 (s, 1H).

reactant | 5-Fluoro-benzofuran-3-carbaldehyde | 21.9 mmol, 3.59 g | FC=1C=CC2=C(C(=CO2)C=O)C1 | C9H5FO2
reactant | (4-amino-2-nitro-phenyl)-carbamic acid ethyl ester | 19.9 mmol, 4.48 g | C(C)OC(NC1=C(C=C(C=C1)N)[N+](=O)[O-])=O | C9H11N3O4
reactant | sodiumborohydride | 39.8 mmol, 1.50 g | [BH4-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | o-xylene | 80 mL | CC=1C=CC=CC1C | C8H10
solvent | dioxane methanol | O1CCOCC1.CO
product | {4-[(5-Fluoro-benzofuran-3-ylmethyl)-amino]-2-nitro-phenyl}-carbamic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1)NCC1=COC2=C1C=C(C=C2)F)[N+](=O)[O-])=O | C18H16FN3O5
